US07202245B2
8-Fluoro-4-[2-(pyrimidin-2-ylamino)-ethylamino]-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one
A mixture of 50 mg of 4-(2-amino-ethylamino)-8-fluoro-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one 13.5 mg of 2-chloropyrimidine, and 76 mg of diisopropylethylamine in DMSO (0.5 mL) was heated for 18 hrs. An additional 13.5 mg of 2-chloropyrimidine was added and heating was continued for another 18 hrs. The reaction was diluted with EtOAc, washed with water, and dried over sodium sulfate prior to concentration. The residue was separated by silica gel chromatography, and the isolated residue was recrystallized from MeOH to give the title compound. MS (M−H)−=339.0.

reactant | 4-(2-amino-ethylamino)-8-fluoro-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one | 50 mg | NCCNC=1C=2N(C3=CC(=CC=C3N1)F)C(NN2)=O | C11H11FN6O
reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
reactant | diisopropylethylamine | 76 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-chloropyrimidine | 13.5 mg | ClC1=NC=CC=N1 | C4H3ClN2
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 8-Fluoro-4-[2-(pyrimidin-2-ylamino)-ethylamino]-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one | FC1=CC=C2N=C(C=3N(C2=C1)C(NN3)=O)NCCNC3=NC=CC=N3 | C15H13FN8O
